US04618682
2-Amino-4,5-dihydro-N-(3-methylphenyl)-1H-imidazole-1-carboxamide Monohydrochloride
A suspension of 31.95 g (0.15 mole) of 2-iminoimidazolidine monohydroiodide in 400 ml THF was treated with 11.99 g (0.15 mole) 50% NaOH solution and stirred for 0.5 hour. Twenty grams of anhydrous Na2SO4 were added and the mixture stirred an additional 0.5 hour. After cooling to -20° C. (it was necessary to maintain a temperature of -20° C. at all times when in the free base form) under N2, a solution of 9.99 g (0.075 mole) of 3-methylphenyl isocyanate in 125 ml THF was added dropwise over a 3-hour period, maintaining a temperature of -20° C. The mixture was stirred an additional hour, then the inorganics were filtered off and the solvent was removed in vacuo, cold, to yield a yellow oil, which was stirred in cold brine and extracted with 3×150 ml portions of cold CH2Cl2. The combined CH2Cl2 extracts were dried over anhydrous K2CO3 and filtered. The filtrate was acidified to pH<3 with excess ethereal HCl, adding MeOH to dissolve solids which formed upon acidification. The solution was stored in a freezer overnight. The solvent and excess HCl were removed in vacuo to leave a yellow-orange oil, which solidified when washed with Et2O. The solid was recrystallized from MeOH/Et2O to yield 11.11 g of impure product which was converted to the free base and then back to the HCl salt, and recrystallized from MeOH/Et2O to yield 7.99 g (41.8%) of pure hydrochloride salt, a white solid, m.p. 195°-196.5° C. (dec.).

reactant | 2-iminoimidazolidine monohydroiodide | 0.15 mole, 31.95 g | I.N=C1NCCN1
reactant | NaOH | 0.15 mole, 11.99 g | [OH-].[Na+]
reactant | Na2SO4 | Twenty grams | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 3-methylphenyl isocyanate | 0.075 mole, 9.99 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
reactant | brine | [Cl-].[Na+].O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 2-Amino-4,5-dihydro-N-(3-methylphenyl)-1H-imidazole-1-carboxamide Monohydrochloride | 11.11 g | Cl.NC=1N(CCN1)C(=O)NC1=CC(=CC=C1)C | InChI=1S/C11H14N4O.ClH/c1-8-3-2-4-9(7-8)14-11(16)15-6-5-13-10(15)12;/h2-4,7H,5-6H2,1H3,(H2,12,13)(H,14,16);1H
